US08193199B2
In a round bottomed flask was dissolved (+)-dip-chloride(tm) (4418 mg, 13773 μmol) in anhydrous THF (50 mL) and the solution was cooled to −55° C. (using a dry ice/MeCN bath). To this solution was added 1-(2-chloro-8-fluoroquinolin-3-yl)ethanone (1.4 g, 6.3 mmol) as a solution in THF (10 mL). The reaction was allowed to warm to +10° C. over 5 h. The reaction was quenched with 10 mL acetone and 20 mL of 10% Na2CO3 and allowed to stir for 1 h at rt. Ethyl acetate (200 mL) was added and the layers were separated. The organic phase was washed with three times with a 50% saturated sodium bicarbonate solution and once with brine. The organic layer was dried over MgSO4, filtered, and concentrated to provide 5 g of crude material. The crude material was purified using 7:3 hexanes:ethyl acetate on 120 g silica gel column to afford (R)-1-(2-chloro-8-fluoroquinolin-3-yl)ethanol. Chiral HPLC (10% IPA in hexanes, chiralcel AD) shows product to be 96.0% ee. 1H NMR (400 MHz, CDCl3) δ ppm 8.43 (br s), 7.64 (br d, J=8.2 Hz, 1H), 7.50 (td, J=7.8, 4.7 Hz, 1H), 7.41 (ddd, J=10.2, 7.8, 1.2 Hz, 1H), 5.40 (qd, J=5.9, 0.8 Hz, 1H), 2.22 (br s, 1H), 1.62 (d, J=6.3 Hz, 3H). Mass Spectrum (ESI) m/e=226.0 (M+1).

reactant | 1-(2-chloro-8-fluoroquinolin-3-yl)ethanone | 6.3 mmol, 1.4 g | ClC1=NC2=C(C=CC=C2C=C1C(C)=O)F | C11H7ClFNO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (R)-1-(2-chloro-8-fluoroquinolin-3-yl)ethanol | ClC1=NC2=C(C=CC=C2C=C1[C@@H](C)O)F | C11H9ClFNO
